US05145869
To a solution of di-tert-butyl 2-(3,4-dichlorophenylthiomethyl)adipate (550 mg) in benzene (7 ml) was added p-toluenesulfonic acid (40 mg), and the mixture was refluxed for 45 minutes. After the reaction mixture was cooled to room temperature, methanol (7 ml) was added, and the solution was stirred at 40° C. for 2.5 hours. The reaction mixture was concentrated in vacuo, and the resulting residue was purified by flash column chromatography on silica by eluting with chloroform/methanol (10:1) to give 340 mg of 3-(3,4-dichlorophenylthio)-2-(3-methoxycarbonylpropyl)propionic acid as an oil.

reactant | di-tert-butyl 2-(3,4-dichlorophenylthiomethyl)adipate | 550 mg | ClC=1C=C(C=CC1Cl)SCC(C(=O)OC(C)(C)C)CCCC(=O)OC(C)(C)C | C21H30Cl2O4S
reactant | p-toluenesulfonic acid | 40 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methanol | 7 ml | CO | CH4O
solvent | benzene | 7 ml | C1=CC=CC=C1 | C6H6
product | 3-(3,4-dichlorophenylthio)-2-(3-methoxycarbonylpropyl)propionic acid | 340 mg | ClC=1C=C(C=CC1Cl)SCC(C(=O)O)CCCC(=O)OC | C14H16Cl2O4S
